US05563158
3-(N-t-Butyloxycarbonylpiperidin-4-yl)propan-1-ol:
To a mixture of 3-(piperidin-4-yl)propan-1-ol p-toluenesulfonate (19.0 g, 57 mmol) in 2M NaOH (40 mL, 80 mmol) and t-BuOH (50 mL) was added di-tert-butyl dicarbonate (13.7 g, 62.7 mmol). After stirring for 18 hr, it was concentrated in vacuo and water added. The aqueous was extracted with ether (4×) and the ethereal phase washed with saturated Na2CO3, saturated NaCl and dried (MgSO4). Concentration in vacuo, then under vacuum afforded 11.37 g (82%) of the title compound; 1H NMR (300 MHz, CDCl3) δ 4.05 (bs, 2H), 3.63 (b, 2H), 2.7 (bt, 2H), 1.6 (m, 5H), 1.45 (s, 9H), 1.3 (m, 3H), 1.1 (m, 2H).

reactant | 3-(piperidin-4-yl)propan-1-ol p-toluenesulfonate | 57 mmol, 19.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC1CCNCC1)C | C15H23NO3S
reactant | NaOH | 80 mmol, 2M, 40 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 62.7 mmol, 13.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-BuOH | 50 mL | CC(C)(C)O | C4H10O
product | 3-(N-t-Butyloxycarbonylpiperidin-4-yl)propan-1-ol | 11.37 g, 82% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCO | C13H25NO3
